US08536165B2
5-Bromo-2-(3-ethoxy-2-fluorophenyl)pyridine
Obtained (1.18 g, yield 47%) following the procedure described in Intermediate 27, starting with 2,5-dibromopyridine (8.44 mmol, 2.0 g), 3-ethoxy-2-fluorophenylboronic acid (8.43 mmol, 1.55 g).

reactant | 2,5-dibromopyridine | 8.44 mmol, 2.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 3-ethoxy-2-fluorophenylboronic acid | 8.43 mmol, 1.55 g | C(C)OC=1C(=C(C=CC1)B(O)O)F | C8H10BFO3
product | 5-Bromo-2-(3-ethoxy-2-fluorophenyl)pyridine | yield 47% | BrC=1C=CC(=NC1)C1=C(C(=CC=C1)OCC)F | C13H11BrFNO
